US08034945B2
(d). 4-[3-Amino-5-ethoxy-4-(3-methoxy-benzyloxy)-phenyl]-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile
A solution of 4-[3-ethoxy-4-(3-methoxy-benzyloxy)-5-nitro-phenyl]-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile and acetic acid (1.3 ml) in THF (33 ml) was cooled to 0° C. Zinc dust (3.02 g) was added in portions under vigorous stirring. The mixture was allowed to reach room temperature and stirred for 1 h. The mixture was then filtered and concentrated in vacuo. The residue was dissolved in dichloromethane and washed with sat. aq. NaHCO3. The organic layer was dried (MgSO4), filtered and concentrated in vacuo.

reactant | 4-[3-ethoxy-4-(3-methoxy-benzyloxy)-5-nitro-phenyl]-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile | C(C)OC=1C=C(C=C(C1OCC1=CC(=CC=C1)OC)[N+](=O)[O-])C1C(=C(NC=2CC(CC(C12)=O)CCC)C)C#N | C30H33N3O6
reactant | acetic acid | 1.3 ml | C(C)(=O)O | C2H4O2
solvent | THF | 33 ml | C1CCOC1 | C4H8O
catalyst | Zinc | 3.02 g | [Zn] | Zn
product | 4-[3-Amino-5-ethoxy-4-(3-methoxy-benzyloxy)-phenyl]-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile | NC=1C=C(C=C(C1OCC1=CC(=CC=C1)OC)OCC)C1C(=C(NC=2CC(CC(C12)=O)CCC)C)C#N | C30H35N3O4
